US07160888B2
A third intermediate compound, 1-(2-Fluoro-naphthalen-1-yl)-piperazine, was produced as follows: A solution of Pd(OAc)2 (44.8 mg, 0.2 mmol) and 2-(dicyclohexylphosphino)biphenyl (70.0 mg, 0.2 mmol) was degassed by bubbling N2 for 20 min. 1-Bromo-2-fluoro-naphthalene (0.448 g, 2 mmol) and 1-Boc-piperazine (0.446 g, 2.4 mmol) were added followed by the addition of NaOtBu (0.27 g, 2.8 mmol). The mixture was warmed up to 80° C. and kept at this temperature for 16 h. The solvent was removed under reduced pressure and the residue was purified by chromatography on silica gel to give 4-(2-fluoro-naphthalen-1-yl)-piperazine-1-carboxylic acid tert-butyl ester (0.24 g, 40%).

reactant | 2-(dicyclohexylphosphino)biphenyl | 0.2 mmol, 70.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | 1-Bromo-2-fluoro-naphthalene | 2 mmol, 0.448 g | BrC1=C(C=CC2=CC=CC=C12)F | C10H6BrF
reactant | 1-Boc-piperazine | 2.4 mmol, 0.446 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | NaOtBu | 2.8 mmol, 0.27 g | CC(C)(C)[O-].[Na+]
catalyst | Pd(OAc)2 | 0.2 mmol, 44.8 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-(2-fluoro-naphthalen-1-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.24 g, 40% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC2=CC=CC=C12)F | C19H23FN2O2
